US06448397B1
To a mixture of 7-methyl-3-phenyl-2H-1,4-benzoxazine (22.5 g, 99.87 mmol) in ethyl ether (300 mL) is added trifluoroacetic acid (7.7 mL, 99.87 mmol). The resulting solution is chilled to 5° C. in an ice bath and n-butyl nitrite (12.26 mL, 99.87 mmol) is added dropwise. The mixture is stirred for 1 h; solids formed during the reaction. The solids are collected by filtration and washed with ether. The filtrates are partitioned between ether and water and the organic layers are washed three times with water (500 mL), dried over magnesium sulfate, and concentrated to dryness. The combined solids gave 23.22 g (97%) of 7-methyl4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine.

reactant | 7-methyl-3-phenyl-2H-1,4-benzoxazine | 99.87 mmol, 22.5 g | CC1=CC2=C(N=C(CO2)C2=CC=CC=C2)C=C1 | C15H13NO
reactant | trifluoroacetic acid | 99.87 mmol, 7.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | n-butyl nitrite | 99.87 mmol, 12.26 mL | N(=O)OCCCC | C4H9NO2
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
product | 7-methyl4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine | 23.22 g, 97% | CC1=CC2=C(N(C(CO2)C2=CC=CC=C2)N=O)C=C1 | C15H14N2O2
